US04107308
6-Methyl-imidazo[1,5-d]-as-triazine-4(3H)-thione
A mixture of 53.9 gm. of 3-(2-methyl-4-imidazolylmethylene)dithiocarbazic acid methyl ester and 200 ml. of diphenyl ether is reacted as described in Example 23 giving the desired product, m.p. 280.5°-284° C.

reactant | 3-(2-methyl-4-imidazolylmethylene)dithiocarbazic acid methyl ester | CSC(NN=CC=1N=C(NC1)C)=S | C7H10N4S2
reactant | diphenyl ether | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 6-Methyl-imidazo[1,5-d]-as-triazine-4(3H)-thione | CC1=NC=C2N1C(NN=C2)=S | C6H6N4S
